US07834039B2
Into a scintillation vial containing a solution of pentan-3-ol (22 mg, 0.25 mmol) dissolved in THF (2 mL) was added a solution of 3-chloro-4-hydroxy-benzonitrile (38 mg, 0.25 mmol) in THF (2 mL) followed by PS-PPh3 resin (357 mg, 0.5 mmol, loading 1.4 mmol/g) and a solution of DIAD (76 mg, 0.375 mmol) in THF (2 mL). The vial was capped and shaken at room temperature overnight. The reaction mixture was filtered and the resin was washed with THF (4 mL). The filtrate was concentrated to dryness to give 3-chloro-4-(1-ethyl-propoxy)-benzonitrile.

reactant | pentan-3-ol | 0.25 mmol, 22 mg | CCC(CC)O | C5H12O
reactant | 3-chloro-4-hydroxy-benzonitrile | 0.25 mmol, 38 mg | ClC=1C=C(C#N)C=CC1O | C7H4ClNO
reactant | PPh3 | 0.5 mmol, 357 mg | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3 | C18H15P
reactant | DIAD | 0.375 mmol, 76 mg | CC(C)OC(=O)/N=N/C(=O)OC(C)C | C8H14N2O4
solvent | THF | 2 mL | C1CCOC1 | C4H8O
solvent | THF | 2 mL | C1CCOC1 | C4H8O
solvent | THF | 2 mL | C1CCOC1 | C4H8O
product | 3-chloro-4-(1-ethyl-propoxy)-benzonitrile | ClC=1C=C(C#N)C=CC1OC(CC)CC | C12H14ClNO
